US09193707B2
1. Synthesis of tert-butyl 5-(benzyloxy)-6-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinoline (3.8 g, 14.11 mmol, 1.00 equiv) in dichloromethane (30 mL) and TEA (6.38 g, 55.96 mmol, 4.00 equiv). This was followed by the addition of (Boc)2O (6.10 g, 27.95 mmol, 2.00 equiv) at 0° C. The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 30 mL of ethyl acetate. The resulting mixture was washed with 3×30 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 4.5 g (86%) of tert-butyl 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylate as light brown oil. MS (ESI) m/z 270 ([M+H-t-Boc]+); Rf: 0.11 (starting material) and 0.52 (product) in ethyl acetate:petroleum ether=1:1.

reactant | 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 14.11 mmol, 3.8 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C2CCNCC2=CC=C1OC | C17H19NO2
reactant | (Boc)2O | 27.95 mmol, 6.10 g, 2.00 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H-t-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 5-(benzyloxy)-6-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | C(C1=CC=CC=C1)OC1=C2CCN(CC2=CC=C1OC)C(=O)OC(C)(C)C | C22H27NO4
